US20010008947A1
Preparation of (S)-2-amino-4-(2′-methoxyphenyl)-4-oxo-butyric acid.
Add (S)--2-(N-carbobenzyloxy amino)-4-oxo-4-(2′-methoxyphenyl)butanoic acid (1.8 g, 5 mmol), dissolved into glacial acetic acid (10 ml), to 6N hydrochloric acid (60 ml) and warm the resulting solution at 70° C. for 12 hours. Cool and wash the obtained solution with ethyl ether (2× 20 ml), then evaporate the aqueous phase in vacuo to obtain a colourless solid which is recrystallized from Ethanol/Ethyl acetate to give the title compound (0.8 g; 60%) as colourless prisms, m.p. 130 C dec.

reactant | (S)--2-(N-carbobenzyloxy amino)-4-oxo-4-(2′-methoxyphenyl)butanoic acid | 5 mmol, 1.8 g | C(=O)(OCC1=CC=CC=C1)N[C@H](C(=O)O)CC(C1=C(C=CC=C1)OC)=O | C19H19NO6
reactant | hydrochloric acid | 6N, 60 ml | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (S)-2-amino-4-(2′-methoxyphenyl)-4-oxo-butyric acid | 0.8 g, 60% | N[C@H](C(=O)O)CC(=O)C1=C(C=CC=C1)OC | C11H13NO4
